US09260422B2
4-(3,4-Dichloro-phenyl)-6-[4-trifluoromethyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyrimidine
n-Butyl lithium (2.5M solution in hexane, 0.11 ml, 0.27 mmol) was added dropwise to a cold (−78° C.) stirred solution of 4-trifluoromethyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole (0.067 g, 0.25 mmol) in THF (5 ml) and the mixture was stirred at this temperature under a nitrogen atmosphere for 30 minutes. After this time, ZnCl2 (1M solution in Et2O, 0.58 ml, 0.58 mmol) was added in one portion and the solution was allowed to warm to room temperature. 4-Chloro-6-(3,4-dichloro-phenyl)-pyrimidine (0.05 g, 0.19 mmol) and Pd(PPh3)4 (0.045 g, 0.01 mol) were added sequentially and the resulting mixture was heated to reflux and stirred for a further 4 hours. After this time the mixture was diluted with TBME (100 ml) and washed with 1M HCl (50 ml). The layers were separated and the aqueous extracted with TBME (50 ml). The organic layers were combined, dried (MgSO4), filtered and concentrated. The resulting residue was purified using a Biotage Isolera (10 g silica column eluting with 100% heptane to 20% ethyl acetate/80% heptane) to afford the title compound (0.064 g, 68% yield) as a white solid. δH (250 MHz, CDCl3) 9.26 (d, J=1.22 Hz, 1H), 8.60 (d, J=1.37 Hz, 1H), 8.37 (d, J=2.13 Hz, 1H), 8.06 (dd, J=2.13, 8.53 Hz, 1H), 7.52-7.75 (m, 2H), 6.13 (s, 2H), 3.65 (dd, J=7.77, 8.68 Hz, 2H), 0.79-1.05 (m, 2H), −0.03 (s, 9H). Tr=2.66 min m/z (ES+) (M+H+) 489, 491.

reactant | n-Butyl lithium | 0.27 mmol, 2.5M, 0.11 ml | C(CCC)[Li]
reactant | 4-trifluoromethyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | 0.25 mmol, 0.067 g | FC(C=1N=CN(C1)COCC[Si](C)(C)C)(F)F | C10H17F3N2OSi
reactant | 4-Chloro-6-(3,4-dichloro-phenyl)-pyrimidine | 0.19 mmol, 0.05 g | ClC1=NC=NC(=C1)C1=CC(=C(C=C1)Cl)Cl | C10H5Cl3N2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | TBME | 100 ml | CC(C)(C)OC | C5H12O
catalyst | ZnCl2 | 0.58 mmol, 1M, 0.58 ml | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 0.01 mol, 0.045 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3,4-Dichloro-phenyl)-6-[4-trifluoromethyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyrimidine | 0.064 g, 68% yield | ClC=1C=C(C=CC1Cl)C1=NC=NC(=C1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C | C20H21Cl2F3N4OSi
